US06723716B1
2-Chloro-4-chloromethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole
To a solution of 4-chloromethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole (400 mg, 1.2 mmol) in N,N-dimethylformamide (3 mL) was added N-chlorosuccinimide (160 mg, 1.2 mmol), and the mixture was stirred at room temperature for 16 h. The resulting mixture was poured into water and extracted with ethyl acetate. The organic solution was washed with water, dried over sodium sulfate, and concentrated; The residue was chromatographed (silica gel, 20% ethyl acetate-hexane), affording 260 mg of the title compound. 1H NMR (CDCl3) δ 3.09 (2H), 3.36 (2H), 4.60 (2H), 7.5-7.9 (5H).

reactant | 4-chloromethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole | 1.2 mmol, 400 mg | ClCC=1N=CSC1SCCS(=O)(=O)C1=CC=CC=C1 | C12H12ClNO2S3
reactant | N-chlorosuccinimide | 1.2 mmol, 160 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-4-chloromethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole | 260 mg | ClC=1SC(=C(N1)CCl)SCCS(=O)(=O)C1=CC=CC=C1 | C12H11Cl2NO2S3
